US04421920
chloroquine:
17.8 millimols, representing a yield (determined) of 99% relative to the 7-chloro-1,2,3,4-tetrahydroquinolin-4-one converted, and of 96.3% relative to the 1-diethylamino-4-aminopentane converted, and

reactant | 7-chloro-1,2,3,4-tetrahydroquinolin-4-one | ClC1=CC=C2C(CCNC2=C1)=O | C9H8ClNO
reactant | 1-diethylamino-4-aminopentane | C(C)N(CCCC(C)N)CC | C9H22N2
product | chloroquine | CCN(CC)CCCC(C)NC=1C=CN=C2C1C=CC(=C2)Cl | C18H26ClN3
